US08124606B2
Compound 97A: 10-Oxo-1,3,4,9,10,10a-hexahydro-2,4a,5,9-tetraaza-phenanthrene-2,7-dicarboxylic acid 2-tert-butyl ester 7-methyl ester:
To a suspension of 4-(tert-butoxycarbonyl)piperazine-2-carboxylic acid (1169 mg, 5.08 mmol) in THF (46 mL) was added methyl 6-chloro-5-nitronicotinate (1000 mg, 4.62 mmol) and K2CO3 (638 mg, 4.62 mmol). The suspension was heated to reflux for 2 hours, cooled to room temperature, and filtered through a pad of celite. The celite was washed with DCM (50 mL) and the organic portions were combined. The solution was charged into a bomb hydroginator, then treated with triphenyl phosphite (0.015 ml, 0.048 mmol), ammonium vanadate (44 mg, 0.380 mmol), and platinum (1.853 g, 0.475 mmol). The reaction was sealed and pressurized with hydrogen gas (150 psi) overnight. The reaction was then diluted with DCM (100 mL) and heated to reflux for 1 hr. The hot mixture was filtered through celite, washed with DCM (50 mL), and concentrated to 1.65 g (96%) of the title compound as an off-white solid. [M+H] calc'd for C17H22N4O5, 363. found, 363.

reactant | 4-(tert-butoxycarbonyl)piperazine-2-carboxylic acid | 5.08 mmol, 1169 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)C(=O)O | C10H18N2O4
reactant | methyl 6-chloro-5-nitronicotinate | 4.62 mmol, 1000 mg | ClC1=NC=C(C(=O)OC)C=C1[N+](=O)[O-] | C7H5ClN2O4
reactant | K2CO3 | 4.62 mmol, 638 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | triphenyl phosphite | 0.048 mmol, 0.015 ml | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | hydrogen | [H][H] | H2
solvent | THF | 46 mL | C1CCOC1 | C4H8O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | ammonium vanadate | 0.380 mmol, 44 mg | N.O[V](=O)=O
catalyst | platinum | 0.475 mmol, 1.853 g | [Pt] | Pt
product | 10-Oxo-1,3,4,9,10,10a-hexahydro-2,4a,5,9-tetraaza-phenanthrene-2,7-dicarboxylic acid 2-tert-butyl ester 7-methyl ester | COC(=O)C1=CN=C2N3CCN(CC3C(NC2=C1)=O)C(=O)OC(C)(C)C | C17H22N4O5
